US09388196B2
Step 1: 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-bromothiazole
To a stirred solution of 2,4-dibromothiazole (0.5 g. 2.06 mmol) in DMF (15 ml) were added 3-azabicyclo[3.1.0]hexane hydrochloride (prepared according to the procedure given in Bioorganic and Medicinal Chemistry Letters, 2005, 15, 2093-2096, 0.27 g, 2.26 mmol) and DIPEA (0.80 g, 1.0 ml, 6.17 mmol) under a stream of nitrogen. The reaction was then stirred at 80° C. for 18 hrs; the progress of reaction was monitored by TLC. The reaction was quenched with cold water (20 ml) and extracted with ethyl acetate (3×30 ml). The combined organic layer was washed with water (2×10 ml), dried over sodium sulphate and concentrated to give crude compound; which was purified by flash column chromatography using 10% ethyl acetate in hexanes as an eluent to obtain the title compound (0.29 g, 58.5%). MS: m/z 246 (M+1).

reactant | 2,4-dibromothiazole | 2.06 mmol, 0.5 g | BrC=1SC=C(N1)Br | C3HBr2NS
reactant | 3-azabicyclo[3.1.0]hexane hydrochloride | Cl.C12CNCC2C1
reactant | DIPEA | 6.17 mmol, 1.0 ml, 0.80 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-bromothiazole | 0.29 g, 58.5% | C12CN(CC2C1)C=1SC=C(N1)Br | C8H9BrN2S
